US07951805B2
To a 100-mL round-bottomed flask was charged a solution of piperidine-4,4-diol hydrochloride (1.500 g, 10.000 mmol) in methanol (25 mL). Sodium hydroxide powder (0.5 g) was then added and the mixture was stirred at ambient temperature for 1 hour. The di-tert-butyl dicarbonate (2.060 g, 10.000 mmol) was added and the resulting mixture was stirred at ambient temperature for another hour, then evaporated, diluted with water (25 mL) and extracted with ethyl acetate. The combined extracts were dried over anhydrous MgSO4. The solvent was removed in vacuo and the product, 4-Boc-piperidinone, was obtained as pale yellow solid in 95% yield (1.900 g).

reactant | piperidine-4,4-diol hydrochloride | 10.000 mmol, 1.500 g | Cl.N1CCC(CC1)(O)O
reactant | Sodium hydroxide | 0.5 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 10.000 mmol, 2.060 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 25 mL | CO | CH4O
product | 4-Boc-piperidinone | 95% yield | C(=O)(OC(C)(C)C)C1CC(NCC1)=O | C10H17NO3
